US07727988B2
5-(6-fluoro-2-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E36)
5-(6-fluoro-2-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione (7 mg) was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (2 eq) to give the title compound as an off-white powder (8 mg, 5% yield)

reactant | 5-(6-fluoro-2-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | 7 mg | FC1=CC=C(C(=N1)C)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H24F4N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(6-fluoro-2-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 8 mg, 5% yield | Cl.Cl.FC1=CC=C(C(=N1)C)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H24F4N4O2.2ClH/c1-15-19(7-8-21(26)30-15)20-13-33(23(35)31-22(20)34)10-2-9-32-12-18-11-24(18,14-32)16-3-5-17(6-4-16)25(27,28)29;;/h3-8,13,18H,2,9-12,14H2,1H3,(H,31,34,35);2*1H/t18-,24+;;/m0../s1
